US07718645B2
4-Amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one
A solution of 4-chloro-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one (279 mg, 0.70 mmol) in 0.5 N ammonia in p-dioxane was stirred in a sealed tube for 18 hours. Concentration of the reaction mixture, followed by chromatography (10 g silica gel, 0-5% methanol: chloroform) afforded the title compound of Preparation 5 as a white solid, 122 mg. 1H NMR (400 MHz, DMSO-d6) δ 8.18 (s, 1H), 7.80 (d, 2H), 7.60 (br s, 2H), 7.19 (d, 2H), 4.60 (m, 2H), 3.96 (m, 2H). m/z=383.1 (M+1).

reactant | 4-chloro-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one | 0.70 mmol, 279 mg | ClC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)I)=O | C13H9ClIN3O2
reactant | methanol | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ammonia | 0.5 N | N | H3N
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 4-Amino-6-(4-iodophenyl)-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-5(6H)-one | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)I)=O | C13H11IN4O2
